US08466169B2
21c) 3,N-Dimethoxy-N-methyl-5-(pentafluorosulfanyl)benzamide
Methyl 3-methoxy-5-(pentafluorosulfanyl)benzoate (81 mg) was dissolved in absolute THF (5 ml), and N,O-dimethylhydroxylamine hydrochloride (42 mg) was added. Then the mixture was cooled to −15° C., and isopropylmagnesium bromide solution (0.21 ml, 2 M in THF) was added dropwise. After 20 min, the cooling bath was removed and the mixture was stirred at RT for 1 h. To complete the reaction, the mixture was twice more cooled to −15° C., isopropylmagnesium bromide solution (0.1 ml each time) was added dropwise and the mixture was stirred at RT for 1 h. Then ammonium chloride solution was added (10 ml) and the aqueous phase was extracted three times with ethyl acetate. The combined extracts were dried over magnesium sulfate, filtered and concentrated. 70 mg of the desired compound were obtained.

reactant | Methyl 3-methoxy-5-(pentafluorosulfanyl)benzoate | 81 mg | COC=1C=C(C(=O)OC)C=C(C1)S(F)(F)(F)(F)F | C9H9F5O3S
reactant | N,O-dimethylhydroxylamine hydrochloride | 42 mg | Cl.CNOC
reactant | isopropylmagnesium bromide | 2 M, 0.21 ml | C(C)(C)[Mg]Br
reactant | isopropylmagnesium bromide | 0.1 ml | C(C)(C)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 3,N-Dimethoxy-N-methyl-5-(pentafluorosulfanyl)benzamide | 70 mg | COC=1C=C(C(=O)N(C)OC)C=C(C1)S(F)(F)(F)(F)F | C10H12F5NO3S
